2192-08-13 06:24:00 Physician Resident Progress Note
24 Hour Events:
 PHERESIS CATHETER - START [**2192-8-12**] 08:00 PM
 EKG - At [**2192-8-12**] 11:15 PM showed non-specific t-wave abnormality,
   but was otherwise within normal limits.
   -started plasmaphoresis at midnight
   -vomitted x1 after PO KCL, gave zofran
   Subjective:
   Feels well this AM. No longer nauseous and has not vomited again.
   Experienced some perioral and finger tip tingling during plasmaphorsis
   that has since resolved. L ear pain improved, but still tender when she
   presses on it. Some tachycardia noted when she moved from the bedside
   commode to her bed, but no chest pain or marked dyspnea. Urine now
   appears dark.
   Allergies: None
   Last dose of Antibiotics: None.
   Infusions:
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, Nausea, Emesis, No(t) Diarrhea,
   No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis, Dark and
   pink urine
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, Rash, Petechiae unchanged on
   lower extremities.
   Endocrine: No(t) Hyperglycemia, History of thyroid disease
   Heme / Lymph: Lymphadenopathy, Anemia, Coagulopathy
   Neurologic: Numbness / tingling, During the plasmaphoresis she
   experienced tingling around lips and on finger tips. Resolved after the
   treatment.
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Pain location: Minor discomfort when she presses her L ear. Improved
   since yesterday.
   Flowsheet Data as of  [**2192-8-13**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 90 (79 - 107) bpm
   BP: 118/70(81) {107/61(72) - 142/107(111)} mmHg
   RR: 22 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 5 Inch
             Total In:
                                                                    200 mL
                                                                    550 mL
   PO:
                                                                    200 mL
                                                                    200 mL
   TF:
   IVF:
   350 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    400 mL
   Urine:
                                                                    550 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -350 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Full extra ocular
   movements
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), Tachycardic
   with pulse 125 after moving from bedside commode to bed.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: Tiny, erythematous petechiae on lower extremities to
   just below knee bilaterally., No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, date, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   18 K/uL
   8.6 g/dL
   126 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.7 mEq/L
   10 mg/dL
   105 mEq/L
   140 mEq/L
   24.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2192-8-12**]  09:30 PM
                             [**2192-8-13**]  05:22 AM
   WBC
   7.1
   7.4
   Hct
   24.6
   24.8
   Plt
   11
   18
   Cr
   0.7
   0.6
   TropT
   <0.01
   Glucose
   83
   126
   Other labs:
   Differential- Neuts:73.0 %, Band:16.0 %, Lymph:8.0 %, Mono:3.0 %,
   Eos:0.0 %
   MCV = 79, MCH = 27.5, MCHC = 34.7, RDW = 17.5
   Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   PT / PTT / INR: 13.4/29.2/1.1
   CKMB / Troponin-T: 3/<0.01
   ALT / AST: 23/29
   Alk Phos / T Bili: 58/0.9
   LDH:375 IU/L (down from 733 and 740 yesterday)
   [**Doctor First Name 1205**] = pending
   HIV = pending
   Assessment and Plan
   Ms. [**Known lastname 4134**] is a 25yo W with no significant PMH who presented to the
   [**Hospital3 588**] ED with chief complaint of petechiae and dyspnea on exertion
   and was found to have marked thrombocytopenia and blood smear
   consistent with a microangiopathic hemolytic anemia. She was
   transferred to [**Hospital1 **] for consideration of plasmaphoresis.
   # Thrombocytopenia
   Microangiopathic hemolytic anemia and severe thrombocytopenia
   consistent with TTP. Fibrinogen is normal so DIC does not seem to be
   occurring. The etiology of her TTP is unknown; infection, medications,
   and pregnancy are not supported by her history. Autoimmune (such as
   ADAMTS 13 inhibitor) and idiopathic are thus the most likely
   etiologies. Followed by heme fellow [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 4135**].
   - Check ADAMTS 13 prior to first plasmaphoresis.
   - Begin plasmaphoresis tonight and continue daily until platelets 150K
   and LDH normal.
   - Begin prednisone, 1mg/[**Last Name (un) **] once daily.
   - Continue to monitor her HCT.
   - Transfuse RBCs if HCT less than 21.
   - Continue to monitor temperature and for signs of infection.
   - Re-check HCG, despite low likelihood given heavy period.
   - Test HIV.
   - Coombs test.
   - Vasculitis labs.
   - ?Diarrhea- E017:h7 assay.
   - f/u DIC panel.
   # Dyspnea, tachycardia, and chest pain upon exertion
   Likely due to decreased 02 delivery to the heart due to acutely
   decreased hct. Alternatively, microangiopathic disease in the heart
   could be preventing adequate blood flow to the myocardium. Pulmonary
   embolism is unlikely given that the pain is not pleuritic and pt has no
   calf pain. Pt has no pain now, while at rest.
   -          Follow up EKG.
   -          Cycle cardiac enzymes.
   -          Chest x-ray now.
   -          Continue to refrain from exertion that causes pain until
   situation has stabilized.
   -          If pain recurs consider nitro, ASA, morphine, oxygen, and
   beta blocker.
   # L ear pain
   Not clear whether this is related to the microangiopathic hemolytic
   anemia.
   -          Ibuprofen and tylenol prn for pain.
   -          Monitor symptom as pt begins plasmaphoresis.
   # FEN
   K+ low at 3.4.
   -          Replete with 60u PO.
   ICU Care
   Nutrition:
   Comments: [**Hospital **] hospital diet and fluids.
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-8-12**] 07:52 PM
   Pheresis Catheter - [**2192-8-12**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Sucralafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   Problem 2 of A/P should read:
   Anemia
   Microangiopathic hemolytic anemia picture in the setting of
   thrombocytopenia is consistent with TTP.
   - Continue to monitor hct.
   - Transfuse if hct < 21.
   - Check coombs test.
   - See plan for problem 1, thrombocytopenia.
   Vasculitis lab to begin: [**Doctor First Name 1205**]. Consider C-ANCA, P-ANCA, RF if [**Doctor First Name 1205**] is
   positive.
   L ear pain:
   Will also find an otoscope in order to be able to evaluate TM. Consider
   ENT consult if there is evidence for pathology and persistent symptoms.
   For ICU care section:
   Pt is on ISS, which is important given that she is being started on
   high-dose prednisone.
   No heparin given thrombocytopenia.
   No need for stress ulcer prophylaxis, given that she is not
   hypotensive, intubated, markedly ill.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-8-12**] 07:52 PM
   Pheresis Catheter - [**2192-8-12**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-08-13 06:24:00 Physician Resident Progress Note
24 Hour Events:
 PHERESIS CATHETER - START [**2192-8-12**] 08:00 PM
 EKG - At [**2192-8-12**] 11:15 PM showed non-specific t-wave abnormality,
   but was otherwise within normal limits.
   -started plasmaphoresis at midnight
   -vomitted x1 after PO KCL, gave zofran
   Subjective:
   Feels well this AM. No longer nauseous and has not vomited again.
   Experienced some perioral and finger tip tingling during plasmaphorsis
   that has since resolved. L ear pain improved, but still tender when she
   presses on it. Some tachycardia noted when she moved from the bedside
   commode to her bed, but no chest pain or marked dyspnea. Urine now
   appears dark.
   Allergies: None
   Last dose of Antibiotics: None.
   Infusions:
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, Nausea, Emesis, No(t) Diarrhea,
   No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis, Dark and
   pink urine
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, Rash, Petechiae unchanged on
   lower extremities.
   Endocrine: No(t) Hyperglycemia, History of thyroid disease
   Heme / Lymph: Lymphadenopathy, Anemia, Coagulopathy
   Neurologic: Numbness / tingling, During the plasmaphoresis she
   experienced tingling around lips and on finger tips. Resolved after the
   treatment.
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Pain location: Minor discomfort when she presses her L ear. Improved
   since yesterday.
   Flowsheet Data as of  [**2192-8-13**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 90 (79 - 107) bpm
   BP: 118/70(81) {107/61(72) - 142/107(111)} mmHg
   RR: 22 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 5 Inch
             Total In:
                                                                    200 mL
                                                                    550 mL
   PO:
                                                                    200 mL
                                                                    200 mL
   TF:
   IVF:
   350 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    400 mL
   Urine:
                                                                    550 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -350 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Full extra ocular
   movements
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), Tachycardic
   with pulse 125 after moving from bedside commode to bed.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: Tiny, erythematous petechiae on lower extremities to
   just below knee bilaterally., No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, date, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   18 K/uL
   8.6 g/dL
   126 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.7 mEq/L
   10 mg/dL
   105 mEq/L
   140 mEq/L
   24.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2192-8-12**]  09:30 PM
                             [**2192-8-13**]  05:22 AM
   WBC
   7.1
   7.4
   Hct
   24.6
   24.8
   Plt
   11
   18
   Cr
   0.7
   0.6
   TropT
   <0.01
   Glucose
   83
   126
   Other labs:
   Differential- Neuts:73.0 %, Band:16.0 %, Lymph:8.0 %, Mono:3.0 %,
   Eos:0.0 %
   MCV = 79, MCH = 27.5, MCHC = 34.7, RDW = 17.5
   Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   PT / PTT / INR: 13.4/29.2/1.1
   CKMB / Troponin-T: 3/<0.01
   ALT / AST: 23/29
   Alk Phos / T Bili: 58/0.9
   LDH:375 IU/L (down from 733 and 740 yesterday)
   [**Doctor First Name 1205**] = pending
   HIV = pending
   CXR: Official read pending. Lines appear appropriately placed. Lung
   fields clear.
   Assessment and Plan
   Ms. [**Known lastname 4134**] is a 25yo W with no significant PMH who presented to the
   [**Hospital3 588**] ED with chief complaint of petechiae and dyspnea on exertion
   and was found to have marked thrombocytopenia and blood smear
   consistent with a microangiopathic hemolytic anemia. She was
   transferred to [**Hospital1 **] for consideration of plasmaphoresis.
   # Thrombocytopenia
   Microangiopathic hemolytic anemia and severe thrombocytopenia
   consistent with TTP. Fibrinogen is normal so DIC does not seem to be
   occurring. The etiology of her TTP is unknown; infection, medications,
   and pregnancy are not supported by her history. Autoimmune (such as
   ADAMTS 13 inhibitor) and idiopathic are thus the most likely
   etiologies. Followed by heme fellow [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 4135**].
   - Follow-up ADAMTS 13 prior to first plasmaphoresis.
   - Continue plasmaphoresis and continue daily until platelets 150K and
   LDH normal.
   - Continue prednisone, 1mg/[**Last Name (un) **] once daily.
   - Continue to monitor temperature and for signs of infection.
   - Re-check HCG, despite low likelihood given heavy period.
   - Test HIV.
   - [**Doctor First Name 1205**] normal so no need to pursue additional vasculitis labs unless
   additional rash or other musculoskeletal symptoms develop.
   - Follow-up E017:h7 assay.
   - DIC seems unlikely given normal fibrinogen. f/u fibrin degradation
   products.
   # Anemia
   Microangiopathic hemolytic anemia picture (based on low haptoglobin,
   high LDH, smear results) in the setting of thrombocytopenia is
   consistent with TTP. Menorrhagia also likely contributed to anemia. CXR
   shows no sign of pulmonary hemorrhage.
   - Continue to monitor hct.
   - Transfuse if hct < 21.
   - Follow up coombs test today
   - See plan for problem 1, thrombocytopenia.
   # Dyspnea, tachycardia, and chest pain upon exertion
   Likely due to decreased 02 delivery to the heart due to acutely
   decreased hct. Alternatively, microangiopathic disease in the heart
   could be preventing adequate blood flow to the myocardium. Pulmonary
   embolism is unlikely given that the pain is not pleuritic and pt has no
   calf pain. Pt has no pain now, while at rest. CXR normal.
   -  EKG shows no sign of ischemia or other acute process.
   - Chest x-ray shows no sign of acute process.
   - Continue to cycle cardiac enzymes.
   - Continue to refrain from exertion that causes pain until situation
   has stabilized.
   - If pain recurs consider nitro, ASA, morphine, oxygen, and beta
   blocker.
   # L ear pain
   Not clear whether this is related to the microangiopathic hemolytic
   anemia. Improved today.
   - Will also find an otoscope in order to be able to evaluate TM.
   Consider ENT consult if there is evidence for pathology and persistent
   symptoms.
   - Ibuprofen and tylenol prn for pain.
   - Continue to monitor symptom.
   # FEN
   - Continue to follow electrolytes and replete as needed.
   ICU Care
   Nutrition: Normal hospital diet and fluids.
   Glycemic Control:  ISS given high dose prednisone.
   Lines:
   20 Gauge - [**2192-8-12**] 07:52 PM
   Pheresis Catheter - [**2192-8-12**] 08:00 PM
   Prophylaxis:
   DVT: No heparin given thrombocytopenia.
   Stress ulcer: No need for stress ulcer prophylaxis, given that she is
   not hypotensive, intubated, markedly ill.
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-08-13 06:24:00 Physician Resident Progress Note
24 Hour Events:
 PHERESIS CATHETER
 Placed and plasmapheresis started [**2192-8-12**]
 EKG - At [**2192-8-12**] 11:15 PM showed non-specific t-wave abnormality,
   but was otherwise within normal limits.
   - vomitted x1 after PO KCL, gave zofran and nausea and vomiting ceased.
   Subjective:
   Feels well this AM. No longer nauseous and has not vomited again.
   Experienced some perioral and finger tip tingling during plasmaphorsis
   that has since resolved. L ear pain improved, but still tender when she
   presses on it. Some tachycardia noted when she moved from the bedside
   commode to her bed, but no chest pain or marked dyspnea. Urine now
   appears dark.
   Allergies: None
   Last dose of Antibiotics: None.
   Infusions:
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, Nausea, Emesis, No(t) Diarrhea,
   No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis, Dark and
   pink urine
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, Rash, Petechiae unchanged on
   lower extremities.
   Endocrine: No(t) Hyperglycemia, History of thyroid disease
   Heme / Lymph: Lymphadenopathy, Anemia, Coagulopathy
   Neurologic: Numbness / tingling, During the plasmaphoresis she
   experienced tingling around lips and on finger tips. Resolved after the
   treatment.
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Pain location: Minor discomfort when she presses her L ear. Improved
   since yesterday.
   Flowsheet Data as of  [**2192-8-13**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 90 (79 - 107) bpm
   BP: 118/70(81) {107/61(72) - 142/107(111)} mmHg
   RR: 22 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 5 Inch
             Total In:
                                                                    200 mL
                                                                    550 mL
   PO:
                                                                    200 mL
                                                                    200 mL
   TF:
   IVF:
   350 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    400 mL
   Urine:
                                                                    550 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -350 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Full extra ocular
   movements
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), Tachycardic
   with pulse 125 after moving from bedside commode to bed.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: Tiny, erythematous petechiae on lower extremities to
   just below knee bilaterally., No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, date, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   18 K/uL
   8.6 g/dL
   126 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.7 mEq/L
   10 mg/dL
   105 mEq/L
   140 mEq/L
   24.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2192-8-12**]  09:30 PM
                             [**2192-8-13**]  05:22 AM
   WBC
   7.1
   7.4
   Hct
   24.6
   24.8
   Plt
   11
   18
   Cr
   0.7
   0.6
   TropT
   <0.01
   Glucose
   83
   126
   Other labs:
   Differential- Neuts:73.0 %, Band:16.0 %, Lymph:8.0 %, Mono:3.0 %,
   Eos:0.0 %
   MCV = 79, MCH = 27.5, MCHC = 34.7, RDW = 17.5
   Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   PT / PTT / INR: 13.4/29.2/1.1
   CKMB / Troponin-T: 3/<0.01
   ALT / AST: 23/29
   Alk Phos / T Bili: 58/0.9
   LDH:375 IU/L (down from 733 and 740 yesterday)
   [**Doctor First Name 1205**] = pending
   HIV = pending
   CXR: Official read pending. Lines appear appropriately placed. Lung
   fields clear.
   Assessment and Plan
   Ms. [**Known lastname 4134**] is a 25yo W with no significant PMH who presented to the
   [**Hospital3 588**] ED with chief complaint of petechiae and dyspnea on exertion
   and was found to have marked thrombocytopenia and blood smear
   consistent with a microangiopathic hemolytic anemia. She was
   transferred to [**Hospital1 **] for consideration of plasmaphoresis.
   # Thrombocytopenia
   Microangiopathic hemolytic anemia and severe thrombocytopenia
   consistent with TTP. Fibrinogen is normal so DIC does not seem to be
   occurring. The etiology of her TTP is unknown; infection, medications,
   and pregnancy are not supported by her history. Autoimmune (such as
   ADAMTS 13 inhibitor) and idiopathic are thus the most likely
   etiologies. Followed by heme fellow [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 4135**].
   - Follow-up ADAMTS 13 prior to first plasmaphoresis.
   - Continue plasmaphoresis and continue daily until platelets 150K and
   LDH normal.
   - Continue prednisone, 1mg/[**Last Name (un) **] once daily.
   - Continue to monitor temperature and for signs of infection.
   - Re-check HCG, despite low likelihood given heavy period.
   - Test HIV.
   - [**Doctor First Name 1205**] normal so no need to pursue additional vasculitis labs unless
   additional rash or other musculoskeletal symptoms develop.
   - Follow-up E017:h7 assay.
   - DIC seems unlikely given normal fibrinogen. f/u fibrin degradation
   products.
   - Follow up blood and urine cultures.
   - Tox screen to explore etiologies.
   # Anemia
   Microangiopathic hemolytic anemia picture (based on low haptoglobin,
   high LDH, smear results) in the setting of thrombocytopenia is
   consistent with TTP. Menorrhagia also likely contributed to anemia. CXR
   shows no sign of pulmonary hemorrhage.
   - Guaiac stool.
   - Continue to monitor hct.
   - Transfuse if hct < 21.
   - Follow up coombs test today
   - See plan for problem 1, thrombocytopenia.
   # Bandemia
   [**Month (only) 60**] be due to hyperactive marrow response in the setting of
   thrombocytophenia and anemia. Other possibilities include marrow
   pathology or inaccurate measurement in the setting of an abnormal
   smear.
   -          Repeat blood smear with manual diff.
   -          Continue to monitor.
   -          Follow-up blood and urine cultures.
   # Dyspnea, tachycardia, and chest pain upon exertion
   Likely due to decreased 02 delivery to the heart due to acutely
   decreased hct. Alternatively, microangiopathic disease in the heart
   could be preventing adequate blood flow to the myocardium. Pulmonary
   embolism is unlikely given that the pain is not pleuritic and pt has no
   calf pain. Pt has no pain now, while at rest. CXR normal.
   -  EKG shows no sign of ischemia or other acute process.
   - Chest x-ray shows no sign of acute process.
   - Continue to cycle cardiac enzymes.
   - Continue to refrain from exertion that causes pain until situation
   has stabilized.
   - If pain recurs consider nitro, ASA, morphine, oxygen, and beta
   blocker.
   # L ear pain
   Not clear whether this is related to the microangiopathic hemolytic
   anemia. Improved today.
   - Will also find an otoscope in order to be able to evaluate TM.
   Consider ENT consult if there is evidence for pathology and persistent
   symptoms.
   - Tylenol prn for pain.
   - Continue to monitor symptom.
   # FEN
   - Continue to follow electrolytes closely and replete as needed.
   ICU Care
   Nutrition: Normal hospital diet and fluids.
   Glycemic Control:  ISS given high dose prednisone.
   Lines:
   20 Gauge - [**2192-8-12**] 07:52 PM
   Pheresis Catheter - [**2192-8-12**] 08:00 PM
          - Redress given that it is exposed and at high risk for
   infection.
          - Place an additional peripheral IV
   Prophylaxis:
   DVT: No heparin given thrombocytopenia. Pneumoboots.
   Stress ulcer: Carafate given that she is at high risk for GI bleed.
   Communication:  Needs a note faxed to her work explaining the current
   situation.
   Code status: Full code
   Disposition: ICU
   Signed: [**First Name8 (NamePattern2) 3990**] [**Last Name (NamePattern1) 3991**], MS4
   11:11

2192-08-13 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PHERESIS CATHETER - START [**2192-8-12**] 08:00 PM
 EKG - At [**2192-8-12**] 11:15 PM
   -started plasmaphoresis
   -vomitted x1 after PO KCL, gave zofran
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-13**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 90 (79 - 107) bpm
   BP: 118/70(81) {107/61(72) - 142/107(111)} mmHg
   RR: 22 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 5 Inch
             Total In:
                                                                    200 mL
                                                                    550 mL
   PO:
                                                                    200 mL
                                                                    200 mL
   TF:
   IVF:
   350 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    400 mL
   Urine:
                                                                    550 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -350 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   18 K/uL
   8.6 g/dL
   83 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.2 mEq/L
   9 mg/dL
   104 mEq/L
   139 mEq/L
   24.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2192-8-12**]  09:30 PM
                             [**2192-8-13**]  05:22 AM
   WBC
   7.1
   7.4
   Hct
   24.6
   24.8
   Plt
   11
   18
   Cr
   0.7
   Glucose
   83
   Other labs: PT / PTT / INR:13.1/34.1/1.1, ALT / AST:25/38, Alk Phos / T
   Bili:60/1.4, LDH:740 IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   Assessment and Plan
   Ms. [**Known lastname 4134**] is a 25yo W with no significant PMH who presented to the
   [**Hospital3 588**] ED with chief complaint of petechiae and dyspnea on exertion
   and was found to have marked thrombocytopenia and blood smear
   consistent with a microangiopathic hemolytic anemia. She was
   transferred to [**Hospital1 **] for consideration of plasmaphoresis.
   # Thrombocytopenia
   Microangiopathic hemolytic anemia and severe thrombocytopenia
   consistent with TTP. Fibrinogen is normal so DIC does not seem to be
   occurring. The etiology of her TTP is unknown; infection, medications,
   and pregnancy are not supported by her history. Autoimmune (such as
   ADAMTS 13 inhibitor) and idiopathic are thus the most likely
   etiologies. Followed by heme fellow [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 4135**].
   - Check ADAMTS 13 prior to first plasmaphoresis.
   - Begin plasmaphoresis tonight and continue daily until platelets 150K
   and LDH normal.
   - Begin prednisone, 1mg/[**Last Name (un) **] once daily.
   - Continue to monitor her HCT.
   - Transfuse RBCs if HCT less than 21.
   - Continue to monitor temperature and for signs of infection.
   - Re-check HCG, despite low likelihood given heavy period.
   - Test HIV.
   - Coombs test.
   - Vasculitis labs.
   - ?Diarrhea- E017:h7 assay.
   - f/u DIC panel.
   # Dyspnea, tachycardia, and chest pain upon exertion
   Likely due to decreased 02 delivery to the heart due to acutely
   decreased hct. Alternatively, microangiopathic disease in the heart
   could be preventing adequate blood flow to the myocardium. Pulmonary
   embolism is unlikely given that the pain is not pleuritic and pt has no
   calf pain. Pt has no pain now, while at rest.
   -          Follow up EKG.
   -          Cycle cardiac enzymes.
   -          Chest x-ray now.
   -          Continue to refrain from exertion that causes pain until
   situation has stabilized.
   -          If pain recurs consider nitro, ASA, morphine, oxygen, and
   beta blocker.
   # L ear pain
   Not clear whether this is related to the microangiopathic hemolytic
   anemia.
   -          Ibuprofen and tylenol prn for pain.
   -          Monitor symptom as pt begins plasmaphoresis.
   # FEN
   K+ low at 3.4.
   -          Replete with 60u PO.
   ICU Care
   Nutrition:
   Comments: [**Hospital **] hospital diet and fluids.
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-8-12**] 07:52 PM
   Pheresis Catheter - [**2192-8-12**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Sucralafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   Problem 2 of A/P should read:
   Anemia
   Microangiopathic hemolytic anemia picture in the setting of
   thrombocytopenia is consistent with TTP.
   - Continue to monitor hct.
   - Transfuse if hct < 21.
   - Check coombs test.
   - See plan for problem 1, thrombocytopenia.
   Vasculitis lab to begin: [**Doctor First Name 1205**]. Consider C-ANCA, P-ANCA, RF if [**Doctor First Name 1205**] is
   positive.
   L ear pain:
   Will also find an otoscope in order to be able to evaluate TM. Consider
   ENT consult if there is evidence for pathology and persistent symptoms.
   For ICU care section:
   Pt is on ISS, which is important given that she is being started on
   high-dose prednisone.
   No heparin given thrombocytopenia.
   No need for stress ulcer prophylaxis, given that she is not
   hypotensive, intubated, markedly ill.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-8-12**] 07:52 PM
   Pheresis Catheter - [**2192-8-12**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-08-14 05:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Plasmapheresis [**8-13**]. Pt had itching legs during session, received 25
   mg  Benadryl x1.  Recurred once after session, repeated 25 mg Benadryl
   plus ice packs.  CXR clear, no respiratory distress.
   Heme recs included: continue prednisone, plasmapheresis (until
   platelets > 150, pH stable, LDH normalizes), await ADAMTS 13.
   Left ear- (found otoscope on CC6):   Left pinna tender with movement,
   external auditory canal very tender with exam.  No lesions visualized.
   TMs hazy white bl, no erythema.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-14**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 84 (83 - 113) bpm
   BP: 94/56(65) {94/50(62) - 132/89(98)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.4 kg (admission): 62.4 kg
   Height: 5 Inch
                  Total In:
                                                                  1,630 mL
                                                                    120 mL
   PO:
                                                                  1,280 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    350 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    800 mL
   Urine:
                                                                  2,900 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,270 mL
                                                                   -680 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   27 K/uL
   7.7 g/dL
   164 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.9 mEq/L
   11 mg/dL
   106 mEq/L
   139 mEq/L
   22.7 %
   9.9 K/uL
        [image002.jpg]
                             [**2192-8-12**]  09:30 PM
                             [**2192-8-13**]  05:22 AM
                             [**2192-8-14**]  03:55 AM
   WBC
   7.1
   7.4
   9.9
   Hct
   24.6
   24.8
   22.7
   Plt
   11
   18
   27
   Cr
   0.7
   0.6
   0.7
   TropT
   <0.01
   Glucose
   83
   126
   164
   Other labs: PT / PTT / INR:12.3/24.3/1.0, CK / CKMB /
   Troponin-T:/3/<0.01, ALT / AST:23/23, Alk Phos / T Bili:57/0.3,
   Differential-Neuts:85.0 %, Band:16.0 %, Lymph:13.3 %, Mono:1.4 %,
   Eos:0.1 %, Fibrinogen:321 mg/dL, LDH:269 IU/L, Ca++:9.2 mg/dL, Mg++:2.0
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2192-8-12**] 08:00 PM
   18 Gauge - [**2192-8-13**] 06:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-08-14 05:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Plasmapheresis [**8-13**]. Pt had itching legs during session, received 25
   mg  Benadryl x1.  Recurred once after session, repeated 25 mg Benadryl
   plus ice packs.  CXR clear, no respiratory distress.
   Heme recs included: continue prednisone, plasmapheresis (until
   platelets > 150, pH stable, LDH normalizes), await ADAMTS 13.
   Left ear- (found otoscope on CC6):   Left pinna tender with movement,
   external auditory canal very tender with exam.  No lesions visualized.
   TMs hazy white bl, no erythema.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-14**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 84 (83 - 113) bpm
   BP: 94/56(65) {94/50(62) - 132/89(98)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.4 kg (admission): 62.4 kg
   Height: 5 Inch
                  Total In:
                                                                  1,630 mL
                                                                    120 mL
   PO:
                                                                  1,280 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    350 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    800 mL
   Urine:
                                                                  2,900 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,270 mL
                                                                   -680 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   27 K/uL
   7.7 g/dL
   164 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.9 mEq/L
   11 mg/dL
   106 mEq/L
   139 mEq/L
   22.7 %
   9.9 K/uL
        [image002.jpg]
                             [**2192-8-12**]  09:30 PM
                             [**2192-8-13**]  05:22 AM
                             [**2192-8-14**]  03:55 AM
   WBC
   7.1
   7.4
   9.9
   Hct
   24.6
   24.8
   22.7
   Plt
   11
   18
   27
   Cr
   0.7
   0.6
   0.7
   TropT
   <0.01
   Glucose
   83
   126
   164
   Other labs: PT / PTT / INR:12.3/24.3/1.0, CK / CKMB /
   Troponin-T:/3/<0.01, ALT / AST:23/23, Alk Phos / T Bili:57/0.3,
   Differential-Neuts:85.0 %, Band:16.0 %, Lymph:13.3 %, Mono:1.4 %,
   Eos:0.1 %, Fibrinogen:321 mg/dL, LDH:269 IU/L, Ca++:9.2 mg/dL, Mg++:2.0
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4134**] is a 25yo W with no significant PMH who presented to the
   [**Hospital3 588**] ED with chief complaint of petechiae and dyspnea on exertion
   and was found to have marked thrombocytopenia and blood smear
   consistent with a microangiopathic hemolytic anemia. She was
   transferred to [**Hospital1 **] for consideration of plasmaphoresis.
   # Thrombocytopenia
   Microangiopathic hemolytic anemia and severe thrombocytopenia
   consistent with TTP. Fibrinogen is normal so DIC does not seem to be
   occurring. The etiology of her TTP is unknown; infection, medications,
   and pregnancy are not supported by her history. Autoimmune (such as
   ADAMTS 13 inhibitor) and idiopathic are thus the most likely
   etiologies. Followed by heme fellow [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 4135**].
   - Follow-up ADAMTS 13 prior to first plasmaphoresis.
   - Continue plasmaphoresis and continue daily until platelets 150K and
   LDH normal.
   - Continue prednisone, 1mg/[**Last Name (un) **] once daily.
   - Continue to monitor temperature and for signs of infection.
   - Re-check HCG, despite low likelihood given heavy period.
   - Test HIV.
   - [**Doctor First Name 1205**] normal so no need to pursue additional vasculitis labs unless
   additional rash or other musculoskeletal symptoms develop.
   - Follow-up E017:h7 assay.
   - DIC seems unlikely given normal fibrinogen. f/u fibrin degradation
   products.
   - Follow up blood and urine cultures.
   - Tox screen to explore etiologies.
   # Anemia
   Microangiopathic hemolytic anemia picture (based on low haptoglobin,
   high LDH, smear results) in the setting of thrombocytopenia is
   consistent with TTP. Menorrhagia also likely contributed to anemia. CXR
   shows no sign of pulmonary hemorrhage.
   - Guaiac stool.
   - Continue to monitor hct.
   - Transfuse if hct < 21.
   - Follow up coombs test today
   - See plan for problem 1, thrombocytopenia.
   # Bandemia
   [**Month (only) 60**] be due to hyperactive marrow response in the setting of
   thrombocytophenia and anemia. Other possibilities include marrow
   pathology or inaccurate measurement in the setting of an abnormal
   smear.
   -          Repeat blood smear with manual diff.
   -          Continue to monitor.
   -          Follow-up blood and urine cultures.
   # Dyspnea, tachycardia, and chest pain upon exertion
   Likely due to decreased 02 delivery to the heart due to acutely
   decreased hct. Alternatively, microangiopathic disease in the heart
   could be preventing adequate blood flow to the myocardium. Pulmonary
   embolism is unlikely given that the pain is not pleuritic and pt has no
   calf pain. Pt has no pain now, while at rest. CXR normal.
   -  EKG shows no sign of ischemia or other acute process.
   - Chest x-ray shows no sign of acute process.
   - Continue to cycle cardiac enzymes.
   - Continue to refrain from exertion that causes pain until situation
   has stabilized.
   - If pain recurs consider nitro, ASA, morphine, oxygen, and beta
   blocker.
   # L ear pain
   Not clear whether this is related to the microangiopathic hemolytic
   anemia. Improved today.
   - Will also find an otoscope in order to be able to evaluate TM.
   Consider ENT consult if there is evidence for pathology and persistent
   symptoms.
   - Tylenol prn for pain.
   - Continue to monitor symptom.
   # FEN
   - Continue to follow electrolytes closely and replete as needed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2192-8-12**] 08:00 PM
   18 Gauge - [**2192-8-13**] 06:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-08-14 05:57:00 Physician Resident Progress Note
Chief Complaint:
   Menorrhagia continues (tapon 2x/hr)
   Ear pain resolved completely
   Constipation; has not had a bowel movement since admission
   Still very SOB upon light exertion
   24 Hour Events:
   Plasmapheresis [**8-13**]. Pt had itching and rash during session, received
   25 mg  Benadryl x1.  Recurred with rash once after session, repeated 25
   mg Benadryl plus ice packs.  CXR clear, no respiratory distress.
   Left ear- (found otoscope on CC6):   Left pinna tender with movement,
   external auditory canal very tender with exam.  No lesions visualized.
   TMs hazy white bl, no erythema.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Flowsheet Data as of  [**2192-8-14**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 100 (83 - 113) bpm
   BP: 121/72(83) {94/50(62) - 132/89(98)} mmHg
   RR: 20 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.4 kg (admission): 62.4 kg
   Height: 5 Inch
   Total In:
                                                                  1,630 mL
                                                                    420 mL
   PO:
                                                                  1,280 mL
                                                                    420 mL
   TF:
   IVF:
                                                                    350 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                  1,100 mL
   Urine:
                                                                  2,900 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,270 mL
                                                                   -680 mL
   Respiratory support
   O2 Delivery Device: None
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, Conjunctiva pale,
   No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: mild, diffuse, no rebound, No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: petechiae on lower extremities. stable., No(t)
   Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   27 K/uL
   7.7 g/dL
   164 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.9 mEq/L
   11 mg/dL
   106 mEq/L
   139 mEq/L
   22.7 %
   9.9 K/uL
        [image002.jpg]
   Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Differential-Neuts:85.0 %, Lymph:13.3 %, Mono:1.4 %, Eos:0.1 %
   Red cell morphology: 1+ hypochrom, 1+ aniso, 1+ poikilo, 2+ microcyt,
   occasl polychrom, occas schisto, occas stipple, ocass bite
                             [**2192-8-12**]  09:30 PM
                             [**2192-8-13**]  05:22 AM
                             [**2192-8-14**]  03:55 AM
   WBC
   7.1
   7.4
   9.9
   Hct
   24.6
   24.8
   22.7
   Plt
   11
   18
   27
   Cr
   0.7
   0.6
   0.7
   TropT
   <0.01
   Glucose
   83
   126
   164
   Other labs:
   PT / PTT / INR:12.3/24.3/1.0,
   CK / CKMB / Troponin-T:/3/<0.01
   ALT / AST:23/23
   Alk Phos / T Bili:57/0.3
   Fibrinogen:321 mg/dL, LDH:269 IU/L (down from 375 yesterday)
   Urine tox (from [**8-12**] at 11:25pm) positive for benzos and negative for
   barbits, opiates, metham, cocaine, methadone.
   HIV negative.
   Urine HCG negative
   [**Doctor First Name 1205**] negative
   Micro: Blood and urine cultures pending.
   Assessment and Plan
   Ms. [**Known lastname 4134**] is a 25yo W with no significant PMH who presented to the
   [**Hospital3 588**] ED with chief complaint of petechiae and dyspnea on exertion
   and was found to have marked thrombocytopenia and blood smear
   consistent with a microangiopathic hemolytic anemia. She was
   transferred to [**Hospital1 **] for consideration of plasmaphoresis.
   # Thrombocytopenia
   Microangiopathic hemolytic anemia and severe thrombocytopenia
   consistent with TTP. Fibrinogen is normal so DIC does not seem to be
   occurring. The etiology of her TTP is unknown; infection, medications,
   and pregnancy (neg confirmatory urine HCG) are not supported by her
   history. DIC seems unlikely given normal fibrinogen. HIV is negative.
   [**Doctor First Name 1205**] normal. Tox screen positive for benzos, but otherwise negative.
   Etiology thus seems idiopathic, likely in the background of an acquired
   ADAMTS 13 inhibitor.
   - Follow-up ADAMTS 13.
   - Continue plasmaphoresis and continue daily until platelets 150K and
   LDH normal.
   - Pre-treat with Tylenol, benadry, lorazepine, and meperidine prn prior
   to plasmaphoresis today.
   - Continue prednisone, 1mg/[**Last Name (un) **] once daily.
   - Continue to monitor temperature and for signs of infection.
   - E0157:h7 assay once stool is available.
   - Check fibrin degradation products.
   - Follow up blood and urine cultures.
   - Followed by heme fellow [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 4135**].
   # Anemia
   Microangiopathic hemolytic anemia picture (based on low haptoglobin,
   high LDH, smear results) in the setting of thrombocytopenia is
   consistent with TTP. Menorrhagia also likely contributed to anemia. CXR
   shows no sign of pulmonary hemorrhage. Hematocrit down slightly to 22.7
   from 24.8 since yesterday. It
s reassuring that LDH is decreasing,
   suggesting that hemolysis is slowing.
   - Transfused 1 unit PRBCs given symptomatic nature of anemia.
   - Guaiac stool once available.
   - Continue to monitor hct.
   - Follow up coombs test today
   - See plan for problem 1, thrombocytopenia.
   # Menorrhagia: Due to thrombocytopenia, which is gradually improving.
   -          Continue to monitor.
   # Dyspnea, tachycardia, and chest pain upon exertion
   Likely due to decreased 02 delivery to the heart due to acutely
   decreased hct. Alternatively, microangiopathic disease in the heart
   could be preventing adequate blood flow to the myocardium. Pulmonary
   embolism is unlikely given that the pain is not pleuritic and pt has no
   calf pain. Pt has no pain now, while at rest. CXR normal. EKG shows no
   sign of ischemia or other acute process. Cardiac enzymes not elevated.
   - Continue to refrain from exertion that causes pain until situation
   has stabilized.
   - If pain recurs consider nitro, ASA, morphine, oxygen, and beta
   blocker.
   # Constipation: Has not had a bowel movement for the past 2 days, while
   being in the hospital.
   - Start colace.
   # Bandemia
   No bands seen on manual diff. Likely an inaccurate measurement in the
   setting of an abnormal smear.
   -          Follow-up blood and urine cultures.
   # L ear pain
   Concerning for an infection that could trigger TTP, however TM exam was
   unremarkable, pt has remained afebrile, and pain resolved today without
   treatment.
   - Tylenol prn for pain.
   # FEN
   - Continue to follow electrolytes closely and replete as needed.
   ICU Care
   Nutrition: Full hospital diet and fluids.
   Glycemic Control:  ISS
   Lines:
   Pheresis Catheter - [**2192-8-12**] 08:00 PM
   18 Gauge - [**2192-8-13**] 06:42 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Sucralfate
   VAP:
   Comments: Bowel regimen needed
   Communication:  Comments:
   Code status: Full code
   Disposition: To medical floor today.
   Signed: [**First Name8 (NamePattern2) 3990**] [**Last Name (NamePattern1) 3991**], MS4
   11:56

2192-08-14 05:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Plasmapheresis [**8-13**]. Pt had itching legs during session, received 25
   mg  Benadryl x1.  Recurred once after session, repeated 25 mg Benadryl
   plus ice packs.  CXR clear, no respiratory distress.
   Heme recs included: continue prednisone, plasmapheresis (until
   platelets > 150, pH stable, LDH normalizes), await ADAMTS 13.
   Left ear- (found otoscope on CC6):   Left pinna tender with movement,
   external auditory canal very tender with exam.  No lesions visualized.
   TMs hazy white bl, no erythema.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-14**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 84 (83 - 113) bpm
   BP: 94/56(65) {94/50(62) - 132/89(98)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.4 kg (admission): 62.4 kg
   Height: 5 Inch
                  Total In:
                                                                  1,630 mL
                                                                    120 mL
   PO:
                                                                  1,280 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    350 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    800 mL
   Urine:
                                                                  2,900 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,270 mL
                                                                   -680 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   27 K/uL
   7.7 g/dL
   164 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.9 mEq/L
   11 mg/dL
   106 mEq/L
   139 mEq/L
   22.7 %
   9.9 K/uL
        [image002.jpg]
   Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Differential-Neuts:85.0 %, Band:16.0 %, Lymph:13.3 %, Mono:1.4 %,
   Eos:0.1 %
   Red cell morphology: 1+ hypochrom, 1+ aniso, 1+ poikilo, 2+ microcyt,
   occasl polychrom, occas schisto, occas stipple, ocass bite
                             [**2192-8-12**]  09:30 PM
                             [**2192-8-13**]  05:22 AM
                             [**2192-8-14**]  03:55 AM
   WBC
   7.1
   7.4
   9.9
   Hct
   24.6
   24.8
   22.7
   Plt
   11
   18
   27
   Cr
   0.7
   0.6
   0.7
   TropT
   <0.01
   Glucose
   83
   126
   164
   Other labs:
   PT / PTT / INR:12.3/24.3/1.0,
   CK / CKMB / Troponin-T:/3/<0.01
   ALT / AST:23/23
   Alk Phos / T Bili:57/0.3
   Fibrinogen:321 mg/dL, LDH:269 IU/L (down from 375 yesterday)
   Urine tox (from [**8-12**] at 11:25pm) positive for benzos and negative for
   barbits, opiates, metham, cocaine, methadone.
   Micro: Blood and urine cultures pending.
   Assessment and Plan
   Ms. [**Known lastname 4134**] is a 25yo W with no significant PMH who presented to the
   [**Hospital3 588**] ED with chief complaint of petechiae and dyspnea on exertion
   and was found to have marked thrombocytopenia and blood smear
   consistent with a microangiopathic hemolytic anemia. She was
   transferred to [**Hospital1 **] for consideration of plasmaphoresis.
   # Thrombocytopenia
   Microangiopathic hemolytic anemia and severe thrombocytopenia
   consistent with TTP. Fibrinogen is normal so DIC does not seem to be
   occurring. The etiology of her TTP is unknown; infection, medications,
   and pregnancy (neg confirmatory urine HCG) are not supported by her
   history. DIC seems unlikely given normal fibrinogen. HIV is negative.
   [**Doctor First Name 1205**] normal. Tox screen positive for benzos, but otherwise negative.
   Etiology thus seems idiopathic, likely in the background of an acquired
   ADAMTS 13 inhibitor.
   - Follow-up ADAMTS 13.
   - Continue plasmaphoresis and continue daily until platelets 150K and
   LDH normal. Use benadryl and ice for pruritis.
   - Continue prednisone, 1mg/[**Last Name (un) **] once daily.
   - Continue to monitor temperature and for signs of infection.
   - Check E0157:h7 assay.
   - Check fibrin degradation products.
   - Follow up blood and urine cultures.
   - Followed by heme fellow [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 4135**].
   # Anemia
   Microangiopathic hemolytic anemia picture (based on low haptoglobin,
   high LDH, smear results) in the setting of thrombocytopenia is
   consistent with TTP. Menorrhagia also likely contributed to anemia. CXR
   shows no sign of pulmonary hemorrhage. Hematocrit down slightly to 22.7
   from 24.8 since yesterday, but LDH decreasing.
   - Guaiac stool.
   - Continue to monitor hct.
   - Transfuse if hct < 21.
   - Follow up coombs test today
   - See plan for problem 1, thrombocytopenia.
   # Bandemia
   No bands seen on manual diff. Likely an inaccurate measurement in the
   setting of an abnormal smear.
   -          Follow-up blood and urine cultures.
   # Dyspnea, tachycardia, and chest pain upon exertion
   Likely due to decreased 02 delivery to the heart due to acutely
   decreased hct. Alternatively, microangiopathic disease in the heart
   could be preventing adequate blood flow to the myocardium. Pulmonary
   embolism is unlikely given that the pain is not pleuritic and pt has no
   calf pain. Pt has no pain now, while at rest. CXR normal. EKG shows no
   sign of ischemia or other acute process. Cardiac enzymes not elevated.
   - Continue to refrain from exertion that causes pain until situation
   has stabilized.
   - If pain recurs consider nitro, ASA, morphine, oxygen, and beta
   blocker.
   # L ear pain
   Concerning for an infection that could trigger TTP, however TM exam was
   unremarkable and pt has remained afebrile. Pain improved today.
   - Consider ENT consult.
   - Tylenol prn for pain.
   # FEN
   - Continue to follow electrolytes closely and replete as needed.
   ICU Care
   Nutrition: Full hospital diet and fluids.
   Glycemic Control:  ISS
   Lines:
   Pheresis Catheter - [**2192-8-12**] 08:00 PM
   18 Gauge - [**2192-8-13**] 06:42 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Carafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-08-14 05:57:00 Physician Resident Progress Note
Chief Complaint:
   Menorrhagia continues (tapon 2x/hr)
   No ear pain
   Constipation
   Still SOB upon light exertion
   24 Hour Events:
   Plasmapheresis [**8-13**]. Pt had itching legs during session, received 25
   mg  Benadryl x1.  Recurred with rash once after session, repeated 25 mg
   Benadryl plus ice packs.  CXR clear, no respiratory distress.
   Heme recs included: continue prednisone, plasmapheresis (until
   platelets > 150, pH stable, LDH normalizes), await ADAMTS 13.
   Left ear- (found otoscope on CC6):   Left pinna tender with movement,
   external auditory canal very tender with exam.  No lesions visualized.
   TMs hazy white bl, no erythema.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-14**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 84 (83 - 113) bpm
   BP: 94/56(65) {94/50(62) - 132/89(98)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.4 kg (admission): 62.4 kg
   Height: 5 Inch
                  Total In:
                                                                  1,630 mL
                                                                    120 mL
   PO:
                                                                  1,280 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    350 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    800 mL
   Urine:
                                                                  2,900 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,270 mL
                                                                   -680 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   27 K/uL
   7.7 g/dL
   164 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.9 mEq/L
   11 mg/dL
   106 mEq/L
   139 mEq/L
   22.7 %
   9.9 K/uL
        [image002.jpg]
   Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Differential-Neuts:85.0 %, Band:16.0 %, Lymph:13.3 %, Mono:1.4 %,
   Eos:0.1 %
   Red cell morphology: 1+ hypochrom, 1+ aniso, 1+ poikilo, 2+ microcyt,
   occasl polychrom, occas schisto, occas stipple, ocass bite
                             [**2192-8-12**]  09:30 PM
                             [**2192-8-13**]  05:22 AM
                             [**2192-8-14**]  03:55 AM
   WBC
   7.1
   7.4
   9.9
   Hct
   24.6
   24.8
   22.7
   Plt
   11
   18
   27
   Cr
   0.7
   0.6
   0.7
   TropT
   <0.01
   Glucose
   83
   126
   164
   Other labs:
   PT / PTT / INR:12.3/24.3/1.0,
   CK / CKMB / Troponin-T:/3/<0.01
   ALT / AST:23/23
   Alk Phos / T Bili:57/0.3
   Fibrinogen:321 mg/dL, LDH:269 IU/L (down from 375 yesterday)
   Urine tox (from [**8-12**] at 11:25pm) positive for benzos and negative for
   barbits, opiates, metham, cocaine, methadone.
   Micro: Blood and urine cultures pending.
   Assessment and Plan
   Ms. [**Known lastname 4134**] is a 25yo W with no significant PMH who presented to the
   [**Hospital3 588**] ED with chief complaint of petechiae and dyspnea on exertion
   and was found to have marked thrombocytopenia and blood smear
   consistent with a microangiopathic hemolytic anemia. She was
   transferred to [**Hospital1 **] for consideration of plasmaphoresis.
   # Thrombocytopenia
   Microangiopathic hemolytic anemia and severe thrombocytopenia
   consistent with TTP. Fibrinogen is normal so DIC does not seem to be
   occurring. The etiology of her TTP is unknown; infection, medications,
   and pregnancy (neg confirmatory urine HCG) are not supported by her
   history. DIC seems unlikely given normal fibrinogen. HIV is negative.
   [**Doctor First Name 1205**] normal. Tox screen positive for benzos, but otherwise negative.
   Etiology thus seems idiopathic, likely in the background of an acquired
   ADAMTS 13 inhibitor.
   - Follow-up ADAMTS 13.
   - Continue plasmaphoresis and continue daily until platelets 150K and
   LDH normal. Use benadryl and ice for pruritis.
   - Continue prednisone, 1mg/[**Last Name (un) **] once daily.
   - Continue to monitor temperature and for signs of infection.
   - Check E0157:h7 assay.
   - Check fibrin degradation products.
   - Follow up blood and urine cultures.
   - Followed by heme fellow [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 4135**].
   # Anemia
   Microangiopathic hemolytic anemia picture (based on low haptoglobin,
   high LDH, smear results) in the setting of thrombocytopenia is
   consistent with TTP. Menorrhagia also likely contributed to anemia. CXR
   shows no sign of pulmonary hemorrhage. Hematocrit down slightly to 22.7
   from 24.8 since yesterday, likely due to menorrhagia, but LDH
   decreasing.
   - Guaiac stool.
   - Continue to monitor hct.
   - Transfuse if hct < 21.
   - Follow up coombs test today
   - See plan for problem 1, thrombocytopenia.
   # Menorrhagia
   -          Anything we can do?
   # Dyspnea, tachycardia, and chest pain upon exertion
   Likely due to decreased 02 delivery to the heart due to acutely
   decreased hct. Alternatively, microangiopathic disease in the heart
   could be preventing adequate blood flow to the myocardium. Pulmonary
   embolism is unlikely given that the pain is not pleuritic and pt has no
   calf pain. Pt has no pain now, while at rest. CXR normal. EKG shows no
   sign of ischemia or other acute process. Cardiac enzymes not elevated.
   - Continue to refrain from exertion that causes pain until situation
   has stabilized.
   - If pain recurs consider nitro, ASA, morphine, oxygen, and beta
   blocker.
   # Bandemia
   No bands seen on manual diff. Likely an inaccurate measurement in the
   setting of an abnormal smear.
   -          Follow-up blood and urine cultures.
   # L ear pain
   Concerning for an infection that could trigger TTP, however TM exam was
   unremarkable and pt has remained afebrile. Pain improved today.
   - Consider ENT consult.
   - Tylenol prn for pain.
   # FEN
   - Continue to follow electrolytes closely and replete as needed.
   ICU Care
   Nutrition: Full hospital diet and fluids.
   Glycemic Control:  ISS
   Lines:
   Pheresis Catheter - [**2192-8-12**] 08:00 PM
   18 Gauge - [**2192-8-13**] 06:42 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Carafate
   VAP:
   Comments: Bowel regimen needed
   Communication:  Comments:
   Code status: Full code
   Disposition: